US05405851
A solution of crude 2,2'-dithiobis (4-nitrobenzoic acid) (8.35 g, ~ 21 mmol) in SOCl2 (50 ml) was stirred at reflux for 1.5 hours and then concentrated in vacuo. The residual solid was suspended in methylene chloride (50 ml) and Cl2 (3.3 g, 47 mmol) gas was bubbled in and the solution stirred 1.5 hours at room temperature. Nitrogen gas was then bubbled into the solution until moistened starch-iodine paper indicated the absence of Cl2. L-Glutamic acid diethyl ester hydrochloride (6.5 g, 27 mmol)(Aldrich) was then added, followed by the dropwise addition of diisopropylethylamine (~ 10 ml, ~ 57 mmol) (Aldrich) and the reaction mixture was stirred under nitrogen for 45 minutes. Additional diisopropylethylamine was added dropwise until formation of white amine hydrochloride fumes above the solution ceased. After a further 30 minutes of stirring, the reaction mixture was concentrated in vacuo onto silica gel (40 g); chromatography on silica gel (200 g), eluting with ethyl acetate:hexane (1:2) gave diethyl (S)-2-(2,3-dihydro-6-nitro-3-oxo-1,2-benzoisothiazol-2-yl)glutarate (4.0 g) as an oil. 1H NMR (DMSO-d6, 300 MHz) δ: 1.14 (t, J=7 Hz, 3H, ester CH3), 1.18 (t, J=7 Hz, 3H, ester CH3), 2.12- 2.46 (m, 4H, gl u CH2CH2), 4.01 (q, J=7 Hz, 2H, ester CH2), 4.17 (q, J=7 Hz, 2H, ester CH2), 5.22-5.29 (m, 1H, glu CH), 8.11 (d, J=9 Hz, 1H, Ar), 8.21 (dd, J=9,2 Hz, 1H, Ar), 9.03 (d, J=2 Hz, 1H, Ar). Anal. Calculated for C16H18N2O7S: C, 50.26; H, 4.74; N, 7.33; S, 8.38. Found: C, 50.35; H, 4.76; N, 7.33; S, 8.28.

reactant | 2,2'-dithiobis (4-nitrobenzoic acid) | ~ 21 mmol, 8.35 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)SSC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C14H8N2O8S2
reactant | Cl2 | 47 mmol, 3.3 g | ClCl | Cl2
reactant | L-Glutamic acid diethyl ester hydrochloride | 27 mmol, 6.5 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
reactant | diisopropylethylamine | ~ 57 mmol, ~ 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | SOCl2 | 50 ml | O=S(Cl)Cl | Cl2OS
product | diethyl (S)-2-(2,3-dihydro-6-nitro-3-oxo-1,2-benzoisothiazol-2-yl)glutarate | 4.0 g | [N+](=O)([O-])C1=CC2=C(C(N(S2)[C@H](C(=O)OCC)CCC(=O)OCC)=O)C=C1 | C16H18N2O7S
